data/oMe_Silver.jsonl
{"reaction_id": "NR-112_1-CC_2-OC_3-Cl_4-O_5-C1CCCCC1","name": "Houben-Hoesch Reaction","level": "medium","reactants_smiles": ["c1c(O)c(CC)c(OC)c(Cl)c1O","C(C1CCCCC1)#N"],"products_smiles": ["c1(C(=O)C1CCCCC1)c(O)c(CC)c(OC)c(Cl)c1O"],"conditions": "i. ZnCl2, HCl ii. H2O","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(=N[Zn])C1CCCCC1)C(=[OH+])c(CC)c(OC)c(Cl)c1O","rationale": "ZnCl2 coordinates to the nitrile nitrogen, increasing the electrophilicity of the carbon and enabling nucleophilic attack by the activated aromatic ring via resonance donation from the phenolic OH."},{"step": 2,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "c1(C(=[NH])C1CCCCC1)c(O)c(CC)c(OC)c(Cl)c1O","rationale": "Proton elimination restores aromaticity, a thermodynamically favored process, stabilizing the intermediate through delocalization over the aromatic ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C(=[NH2+])C1CCCCC1)c(O)c(CC)c(OC)c(Cl)c1O","rationale": "Acidic conditions protonate the imine nitrogen, making it more susceptible to nucleophilic attack by water in the subsequent hydrolysis step."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1(C(=O)C1CCCCC1)c(O)c(CC)c(OC)c(Cl)c1O","rationale": "Water attacks the protonated imine carbon, and subsequent rearrangement leads to C=O formation, driven by the stability of the aryl ketone product under acidic hydrolysis conditions."}],"description": "Under acidic ZnCl2 catalysis, the phenol activates towards electrophilic attack by a nitrilium ion derived from the nitrile. Subsequent proton transfers and hydrolysis yield the aryl ketone. ZnCl2 coordinates to oxygen/nitrogen, enhancing electrophilicity and stabilizing intermediates."}
{"reaction_id": "NR-002_1-c1ccc(C(F)(F)F)cc1_2-CC(C)C","name": "Acid-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)CCC(C)C","C(=O)(c1ccc(C(F)(F)F)cc1)CCC(C)C"],"products_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)C(CC(C)C)C(O)(CCC(C)C)c1ccc(C(F)(F)F)cc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=CCC(C)C)(O)c1ccc(C(F)(F)F)cc1","rationale": "Acid catalysis protonates the carbonyl oxygen, increasing α-proton acidity and enabling enol formation via resonance stabilization of the resulting cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH+]=C(c1ccc(C(F)(F)F)cc1)CCC(C)C","rationale": "Protonation of the second carbonyl oxygen enhances its electrophilicity by withdrawing electron density, making it more susceptible to nucleophilic attack."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(c1ccc(C(F)(F)F)cc1)C(CC(C)C)C(O)(CCC(C)C)c1ccc(C(F)(F)F)cc1","rationale": "The nucleophilic enol π-system attacks the activated carbonyl carbon, favored by strong electrophilicity and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(c1ccc(C(F)(F)F)cc1)C(CC(C)C)C(O)(CCC(C)C)c1ccc(C(F)(F)F)cc1","rationale": "Deprotonation restores the neutral β-hydroxyketone, driven by the stability of the carbonyl and alcohol functional groups under acidic workup."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, generating an electrophilic partner and a nucleophilic enol. The enol attacks the protonated carbonyl, forming a new C–C bond. Subsequent proton transfers regenerate the carbonyl and yield the β-hydroxyketone product."}
